US08609849B1
4-Amino-2-(2-fluoro-phenyl)-butan-2-ol hydrochloride.
To a stirring solution of 3-(2-fluoro-phenyl)-3-hydroxy-butyronitrile (878 mg, 4.9 mmol) in tetrahydrofuran (5 mL) was slowly added a solution of borane-tetrahydrofuran complex (12.8 mL, 12.8 mmol, 1M in tetrahydrofuran). After bubbling ceased, the reaction mixture was heated to 75° C. for 2 hours and then allowed to cool to ambient temperature and concentrated. Methanol (5 mL) was added dropwise followed by hydrogen chloride (5.4 mL, 23.8 mmol, 4N in 1,4-dioxane). The resulting mixture was heated to reflux for 2 hours, allowed to cool to ambient temperature and then concentrated at reduced pressure. The residue was triturated with ether and the precipitate was filtered, washed with ethyl acetate and air dried to give the product as a white solid (1 g, 92%).

reactant | 3-(2-fluoro-phenyl)-3-hydroxy-butyronitrile | 4.9 mmol, 878 mg | FC1=C(C=CC=C1)C(CC#N)(C)O | C10H10FNO
reactant | borane tetrahydrofuran | 12.8 mmol, 1M, 12.8 mL | B.O1CCCC1
reactant | hydrogen chloride | 23.8 mmol, 4N, 5.4 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-Amino-2-(2-fluoro-phenyl)-butan-2-ol hydrochloride | 1 g, 92% | Cl.NCCC(C)(O)C1=C(C=CC=C1)F | InChI=1S/C10H14FNO.ClH/c1-10(13,6-7-12)8-4-2-3-5-9(8)11;/h2-5,13H,6-7,12H2,1H3;1H
